US04880817
6,7-Dimethoxy-1-methyl-4-nitro-3-(1-piperazinyl)carbonyloxyisoquinoline (70)
3-(4-t-Butoxycarbonylpiperazin-1-yl)carbonyloxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (20 g, 4.20 mmol) was added in small portions over 20 minutes to trifluoroacetic acid (15 mL), stirred and cooled to -10° C. (ice-methanol bath). The mixture was stirred at -10° C. for an additional 30 minutes and was then diluted with ice-water (100 mL). The solution was basified by adding 2N NaOH (150 mL) and then extracted with methylene chloride (3×100 mL). The combined organic extracts were dried (Na2SO4), filtered and evaporated to dryness in vacuo to yield a yellow solid residue. The solid was triturated thoroughly with ether, and was the collected and dried to yield the title compound as a yellow solid (1.49 g, 94.4%), mp |300° C. (d). IR (KBr): 3356, 1731, 1620, 1569, 1515, 1213 cm-1 ; NMR (CDCl3): δ 1.67 (br, s, 1H, NH); 2.90 (s, 3H, 1-CH3), superimposed over 2.97 [br m, HN[(CH2)]2, 3.58 [br, s CON[(CH2)]2, 4.02 (s, 6H, 2×OCH3), 7.25 (s, 1H, 5- or 8-H), 7.30 (s, 1H, 5- or 8-H); MS (DCI): 377 (MH)+.

reactant | 3-(4-t-Butoxycarbonylpiperazin-1-yl)carbonyloxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 4.20 mmol, 20 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C | C22H28N4O8
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | NaOH | 2N, 150 mL | [OH-].[Na+]
product | 6,7-Dimethoxy-1-methyl-4-nitro-3-(1-piperazinyl)carbonyloxyisoquinoline | 1.49 g, 94.4% | COC=1C=C2C(=C(N=C(C2=CC1OC)C)OC(=O)N1CCNCC1)[N+](=O)[O-] | C17H20N4O6
